US05234946
Production of 2-[3-(3-thienyl)benzylthio]4-thiazolylmethyl alcohol
The same reaction as in Referential Example 57 is carried out except using 3-(3-thienyl)benzyl bromide [prepared by reducing 3-(3-thienyl)benzaldehyde with sodium borohydride, followed by reacting with phosphorus tribromide] and 4-carboethoxy-2-mercaptothiazole [J. Org. Chem., 25, 1337 (1960)], and the resulting ester compound is reduced with lithium aluminium hydride to give the captioned compound.

reactant | 3-(3-thienyl)benzyl bromide | S1C=C(C=C1)C=1C=C(CBr)C=CC1 | C11H9BrS
reactant | 4-carboethoxy-2-mercaptothiazole | C(=O)(OCC)C=1N=C(SC1)S | C6H7NO2S2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-[3-(3-thienyl)benzylthio]4-thiazolylmethyl alcohol | S1C=C(C=C1)C=1C=C(CSC=2SC=C(N2)CO)C=CC1 | C15H13NOS3
